US04582919
5.8 mmol of (3R,7R)-3,7,11-trimethyl-dodecyl bromide were heated at reflux in 20 ml of ethyl ether for 0.25 hour with calcinated magnesium. 1 g of (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-epoxybutane and 0.9 g of copper (I) 2-propylacetylide [or 1.2 g of copper (I) bromide-dimethyl sulphide complex] were than added at 0° C. The temperature of the mixture was subsequently left to rise to room temperature and the mixture was stirred overnight. 10 ml of ammonium chloride were then added and the mixture was extracted with ethyl ether. The extract was dried, concentrated and distilled in a bulb-tube (b.p.0.01 =140° C.). There were obtained 1.28 g (72%) [or 1.41 g (79%)] of (3R,7R,11R)-1-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-3,7,11,15-tetramethylhexadecan-3-ol as a colourless oil. [α]D20 -0.67° (c=0.9% in chloroform).

reactant | (3R,7R)-3,7,11-trimethyl-dodecyl bromide | 5.8 mmol | C[C@@H](CCBr)CCC[C@@H](CCCC(C)C)C | C15H31Br
reactant | magnesium | [Mg] | Mg
reactant | (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-epoxybutane | 1 g | COC1=C(C(=C(C(=C1C)C)OC)C)CC[C@]1(CO1)C | C16H24O3
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
catalyst | copper (I) | 0.9 g | [Cu+]
product | (3R,7R,11R)-1-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-3,7,11,15-tetramethylhexadecan-3-ol | COC1=C(C(=C(C(=C1C)C)OC)C)CC[C@@](CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)(O)C | C31H56O3
